US05157041
15 mg of freshly distilled acetyl chloride were added to a solution, which was cooled to 0° C. and stirred, of 12 mg of 4(R)-amino-N2 -[3(S)-[[N-(benzyloxycarbonyl)-L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N1 -tert.butyl-L-prolinamide hydrochloride and 21 mg of sodium bicarbonate in 0.5 ml of water and 0.25 ml of dimethylformamide. The mixture was stirred vigorously at 0° C. for 5 hours and then left to stand at room temperature overnight. The mixture was diluted with water and extracted with dichloromethane. The combined dichloromethane extracts were evaporated to give a gum which was purified by flash chromatography on silica gel using 20% methanol in dichloromethane for the elution. There were obtained 2 mg of 4(R)-acetylamino-N2 -[3(S)-[[N-(benzyloxycarbonyl)-L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N1 -tert.butyl-L-prolinamide as a semi-solid; MS: m/e 639 [M+H]+.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | 4(R)-amino-N2 -[3(S)-[[N-(benzyloxycarbonyl)-L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N1 -tert.butyl-L-prolinamide hydrochloride | 12 mg | Cl.N[C@@H]1C[C@H](N(C1)C(C)(C)C)C(=O)NC[C@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(N)=O)=O)O
reactant | sodium bicarbonate | 21 mg | C([O-])(O)=O.[Na+]
solvent | water | 0.5 ml | O | H2O
solvent | dimethylformamide | 0.25 ml | CN(C=O)C | C3H7NO
product | 4(R)-acetylamino-N2 -[3(S)-[[N-(benzyloxycarbonyl)-L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N1 -tert.butyl-L-prolinamide | 2 mg | C(C)(=O)N[C@@H]1C[C@H](N(C1)C(C)(C)C)C(=O)NC[C@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(N)=O)=O)O | C33H46N6O7
